US08614221B2
A 40 mL scintillation vial containing Compound [CCXXX] (220 mg, 0.8 mmol, 1 eq.), CHCl3 (12 mL), DMF (12 mg, 0.16 mmol, 2 eq.), and SOCK (0.56 g, 3.2 mmol, 4 eq.) was heated at 70° C. under nitrogen for 1.5 hours. Then the mixture was allowed to cool and the solvent was removed in vacuo. The residue was dissolved in CHCl3 (20 mL) and washed with saturated NaHCO3 (5 mL). The water solution was extracted with CHCl3 (2×5 mL). The combined organic phases were dried over MgSO4. After filtration and concentration, the residue was purified by silica gel chromatography using EtOAc and heptanes as the mobile phases to furnish Compound [CCXXXI] as a yellowish solid: LCMS (m/e) 296 (M+H); 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.57 (s, 3H) 6.71 (s, 1H) 7.46-7.52 (m, 3H) 7.79 (dd, J=6.61, 3.00 Hz, 2H) 9.02 (s, 1H).

reactant | 2-Methyl-7-phenyl-1,4,6,9,9b-pentaaza-cyclopenta[a]naphthalen-8-ol | CC=1C=C2N(C3=NC(=C(N=C3C=N2)C2=CC=CC=C2)O)N1 | C15H11N5O
reactant | DMF | 0.16 mmol, 12 mg, 2 eq. | CN(C)C=O | C3H7NO
reactant | CHCl3 | 12 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Chloro-2-methyl-7-phenyl-1,4,6,9,9b-pentaaza-cyclopenta[a]naphthalene | ClC1=C(N=C2C=NC=3N(C2=N1)N=C(C3)C)C3=CC=CC=C3 | C15H10ClN5
